US07259177B2
1.9 g of tert-butyl [cis-3-(methoxymethoxymethyl)cyclohexylmethoxy]-acetate are dissolved in 10 ml of tetrahydrofuran, 5 ml of conc. HCl are added and the mixture is stirred at room temperature for 2 h. 10 ml of sat. NaCl solution, 10 ml of water and 30 ml of methyl tert-butyl ether are then added, the phases are separated and the aqueous phase is extracted with methyl tert-butyl ether. The combined organic phases are dried over MgSO4 and concentrated. Flash chromatography on silica gel (heptane/ethyl acetate 3/1) gives 600 mg of tert-butyl (cis-3-hydroxymethyl-cyclohexylmethoxy)acetate as a colorless oil (TLC (heptane/ethyl acetate 2/1): Rf, starting material=0.68, Rf, product=0.18). 260 mg of this are dissolved in 5 ml of dimethylformamide, and 170 mg of tert-butyidimethylsilyl chloride are added. The solution is then cooled to 0° C., and 160 mg of imidazole are added. The solution is stirred at room temperature for 15 h, and 20 ml of sat. NaCl solution, 10 ml of water and 30 ml of methyl tert-butyl ether are then added. The phases are separated and the organic phase is washed with sat. NaCl solution, dried over MgSO4 and concentrated. This gives 350 mg of tert-butyl [cis-3-(tert-butyldimethyl-silanyloxymethyl)cyclohexylmethoxy]acetate as a colorless oil.

reactant | tert-butyl [cis-3-(methoxymethoxymethyl)cyclohexylmethoxy]-acetate | 1.9 g | COCOC[C@H]1C[C@H](CCC1)COCC(=O)OC(C)(C)C | C16H30O5
reactant | HCl | 5 ml | Cl | ClH
reactant | NaCl | 10 ml | [Na+].[Cl-]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | 30 ml | C(C)(C)(C)OC | C5H12O
product | tert-butyl (cis-3-hydroxymethyl-cyclohexylmethoxy)acetate | 600 mg | OC[C@H]1C[C@H](CCC1)COCC(=O)OC(C)(C)C | C14H26O4
